US07608629B2
2-Chloro-4-fluoro-N-[3-(cis-1,2-dimethyl-piperidin-4-yloxy)-phenyl]benzamide isomer 1
Combine 2-chloro-4-fluoro-N-[3-(2-methyl-piperidin-4-yloxy)-phenyl]-benzamide cis isomer 1 (example 57, 0.26 g, 0.72 mmol), dichloromethane (20 mL), and 37% aqueous formaldehyde (0.58 mL, 7.2 mmol) with stirring. After 10 min., add glacial acetic acid (0.08 mL, 1.44 mmol) followed by sodium triacetoxyborohydride (0.23 g, 1.08 mmol). After 3 hr., partition between 1M aqueous sodium hydroxide solution (50 mL) and dichloromethane (50 mL). Separate the organic layer, wash with aqueous NaCl solution, dry over sodium sulfate, filter and concentrate. Purify residue by silica gel flash chromatography eluting with 10% (2M ammonia/methanol) in dichloromethane to obtain of the title compound (0.46 g, 85%). Mass spectrum: Obs. m/z 377.1443; Calc. m/z 377.1432; mp: 152° C.

reactant | 2-chloro-4-fluoro-N-[3-(2-methyl-piperidin-4-yloxy)-phenyl]-benzamide | ClC1=C(C(=O)NC2=CC(=CC=C2)OC2CC(NCC2)C)C=CC(=C1)F | C19H20ClFN2O2
reactant | formaldehyde | 7.2 mmol, 0.58 mL | C=O | CH2O
reactant | acetic acid | 1.44 mmol, 0.08 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.08 mmol, 0.23 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-Chloro-4-fluoro-N-[3-(cis-1,2-dimethyl-piperidin-4-yloxy)-phenyl]benzamide | 0.46 g, 85% | ClC1=C(C(=O)NC2=CC(=CC=C2)O[C@@H]2C[C@@H](N(CC2)C)C)C=CC(=C1)F | C20H22ClFN2O2
